US06894061B2
1-(4′-Chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethanone
2-Acetylphenylboronic acid (5 g, 30.5 mmol) and 4-chloro-2-fluoroiodobenzene (8.6 g, 33.5 mmol) were dissolved in a toluene/ethanol mixture (6:1, 175 mL). An aqueous solution of potassium carbonate (2 M, 60 mL) and tetrakis(triphenylphosphine)palladium (0) (1.06 g, 0.91 mmol) were added to the solution and the entire mixture was degassed using vacuum and stirring with intermittent nitrogen purge. The mixture was heated at 85° C. with stirring for 14 hours. The mixture was allowed to cool and then water was added. The organic phase was separated from the aqueous phase and the aqueous phase was extracted with ethyl acetate (3×100 mL). The organic phases were combined, dried over anhydrous sodium sulfate, filtered, and concentrated to a crude oil. The crude oil was purified by preparative liquid chromatography on a Biotage® 40 Mi column of prepacked silica gel (90 g), eluting with a gradient of 5%-20% methyl tert-butyl ether in hexane, to afford the desired product (4.07 g, 54%) as a yellow oil;

reactant | 2-Acetylphenylboronic acid | 30.5 mmol, 5 g | C(C)(=O)C1=C(C=CC=C1)B(O)O | C8H9BO3
reactant | 4-chloro-2-fluoroiodobenzene | 33.5 mmol, 8.6 g | ClC1=CC(=C(C=C1)I)F | C6H3ClFI
reactant | potassium carbonate | 2 M, 60 mL | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol | 175 mL | C1(=CC=CC=C1)C.C(C)O
catalyst | tetrakis(triphenylphosphine)palladium | 0.91 mmol, 1.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4′-Chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethanone | 4.07 g, 54% | ClC1=CC(=C(C=C1)C1=C(C=CC=C1)C(C)=O)F | C14H10ClFO
